US06090836
EXAMPLE 3 Step A: Preparation of methyl 2-hydroxy-3-propyl-4-benzyloxybenzoate
A solution of methyl 2,4-dihydroxy-3-propylbenzoate (3.00 grams) in 2-butanone (30 mL) was treated with benzyl bromide (1.70 mL) and potassium carbonate (1.972 grams). The mixture was refluxed for 4 hours. The reaction mixture was partitioned between isopropyl acetate and pH 4 buffer. The organic was washed once with water, then dried over magnesium sulfate. The organic was filtered and evaporated to an oil which was chromatographed over silica gel to afford the title compound.

reactant | methyl 2,4-dihydroxy-3-propylbenzoate | 3.00 grams | OC1=C(C(=O)OC)C=CC(=C1CCC)O | C11H14O4
reactant | benzyl bromide | 1.70 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.972 grams | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 30 mL | CC(CC)=O | C4H8O
product | methyl 2-hydroxy-3-propyl-4-benzyloxybenzoate | OC1=C(C(=O)OC)C=CC(=C1CCC)OCC1=CC=CC=C1 | C18H20O4
